Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][H:3].[O:4][C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.1963622247500005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],0.616011634
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-6.57372826596
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.10192078881
[H:10].[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.76548203337
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8],3.49343747082
[C:4]([H:5])([H:6])([C:7][H:8])[H:12].[H:1][C:2]#[C:3][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.268792974
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[H:10].[H:7],3.36572728578
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],3.31845674869
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8],3.2254721666500004
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:4]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],-1.45546429401
[H:1][C:2]([C:3]#[C:4][H:5])[C:9]([O:8][C:6][H:7])([H:10])[H:11]>>[H:1][C:2]1=[C:3][C:4]([H:5])=[C:6]([H:7])[O:8][C:9]1([H:10])[H:11],-2.90999891657
[H:17].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.583420789040001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.83023162301
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9],3.68554434366
[C:1].[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-5.86413560076
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],2.5411557270400005
[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])([C:4](=[O:5])[H:10])([H:6])[H:8].[O:1]([C:7])[H:9],0.13310069
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.3995576976
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][O:4],6.59770391528
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],3.66801542358
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:11]([H:12])([H:13])[H:14],3.4031194535400004
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.55134828971
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.92139984722
[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-4.30224817764
[H:1][O:2].[O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.14204886233
[O:1]=[C:2]([C:3][H:4])[O:5][H:6]>>[O:1][C:2]#[C:3][H:4].[O:5][H:6],3.5465339715
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C@:5]1([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],1.47447105352
